US04935413
Gaseous ammonia was blown into dry chloroform (50 g) to prepare a chloroform solution containing ammonia (0.18 g; 10.5 mmol). To the resultant solution, a solution of methacryloyl isocyanate (1.11 g; 10 mmol) in 1,2-dichloroethane (2 ml) was dropwise added under nitrogen stream while cooling with ice. After completion of the addition, chloroform and 1,2-dichloroethane were evaporated under reduced pressure to give 1-methacryloylurea (1.28 g), which was recrystallized from a mixture of benzene and hexane to give colorless needles. M.P., 137°-138° C.

reactant | ammonia | N | H3N
reactant | chloroform | 50 g | C(Cl)(Cl)Cl | CHCl3
reactant | ammonia | 10.5 mmol, 0.18 g | N | H3N
reactant | methacryloyl isocyanate | 10 mmol, 1.11 g | C(C(=C)C)(=O)N=C=O | C5H5NO2
solvent | 1,2-dichloroethane | 2 ml | ClCCCl | C2H4Cl2
product | 1-methacryloylurea | 1.28 g | C(C(=C)C)(=O)NC(=O)N | C5H8N2O2
